US08048862B2
Potassium ethyl xanthate (4.4 g, 27.5 mmol.) was added to solution of 2-amino-4-methyl-phenol (2 g, 16.2 mmol.) in ethanol (40 mL). The reaction mixture was heated at reflux for 4 h then allowed to cool to rt. Upon cooling to rt the mixture was concentrated and the resulting residue was dissolved in water. Acetic acid was added until pH=5 and a white solid precipitated from the solution. The solid was collected by filtration, washed with water and dried to afford 5-methylbenzo[d]oxazole-2-thiol as a powder (2.4 g, 92.3%) which was used without further purification. MS (ESI) m/e (M+H+) 166.

reactant | Potassium ethyl xanthate | 27.5 mmol, 4.4 g | O(C(=S)[S-])CC.[K+]
reactant | 2-amino-4-methyl-phenol | 16.2 mmol, 2 g | NC1=C(C=CC(=C1)C)O | C7H9NO
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 5-methylbenzo[d]oxazole-2-thiol | 2.4 g, 92.3% | CC=1C=CC2=C(N=C(O2)S)C1 | C8H7NOS
